US08614237B2
2-Bromo-benzene-1,4-diol (Q-2)
To a solution of hydroquinone Q-1 (10 g, 90.90 mmol) in MTBE (methyl tert-butyl ether) (100 mL) at −5° C. was added bromine (17.4 g, 90.90 mmol). The reaction mixture was stirred at 0° C. for 30 min. Solvent was removed in vacuo and the crude product was purified by column chromatography (SiO2, 2% MeOH—CHCl3) to afford compound Q-2 (13 g, 75%) as a solid. TLC Rf=0.6 (CHCl3-MeOH, 9:1); 1H NMR (CDCl3) δ 6.94 (app d, 1H), 6.88 (d, J=8.7 Hz, 1H), 6.72 (dd, J=8.7, 2.8 Hz, 1H), 5.19 (s, 2H) (Synlett 2000, 11, 1561-1564).

reactant | hydroquinone | 90.90 mmol, 10 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | bromine | 90.90 mmol, 17.4 g | BrBr | Br2
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
solvent | MTBE | 100 mL | C(C)(C)(C)OC | C5H12O
product | 2-Bromo-benzene-1,4-diol | BrC1=C(C=CC(=C1)O)O | C6H5BrO2
